US04151357
(E,Z,E) and (E,E,E)-N,N-diethyl-7-acetoxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide
Following the same manner as in Example 12, 1.0 g of (E,Z,E) and (E,E,E)-7-acetoxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid was converted to the corresponding acid chloride with 1.5 ml of oxalyl chloride and the reaction with 1.0 ml of diethylamine afforded 820 mg of the end product.

reactant | (E,E,E)-7-acetoxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid | C(C)(=O)OC/C(=C/CC/C(=C/C(=O)O)/C)/CC\C=C(\CCC=C(C)C)/C | C22H34O4
reactant | oxalyl chloride | 1.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylamine | 1.0 ml | C(C)NCC | C4H11N
product | (E,E,E)-N,N-diethyl-7-acetoxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide | 820 mg | C(C)N(C(\C=C(\CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\COC(C)=O)/C)=O)CC | C26H43NO3
